US04592866
2-[2-(Dimethylamino)ethyl]-2,3-dihydropyrido[3,2-f][1,4]oxazepin-5(4H)-one
A solution of 3.0 g (0.006 mole) of 2-[2-(dimethylamino ethyl]-2,3-dihydro-4-phenylmethylpyrido[3,2-f][1,4]oxazepin-5(4H)-one oxalate [1:1.5]-hemihydrate in about 50 ml of water was made basic with dilute aqueous sodium hydroxide solution and then extracted with three 50 ml portions of benzene. The combined benzene extract was dried over anhydrous sodium sulfate and concentrated on the rotary evaporator (steam bath/50 mm). The residue was dried further by azeotroping 2 times with about 50 ml of dry benzene, evaporating to dryness each time. The final residue was dissolved in 40 ml of liquid ammonia and small spheres of sodium were added with stirring to the solution until a blue color persisted for 20 minutes. (Addition time was about 1 hr). Three grams of ammonium chloride was added slowly and the ammonia was allowed to evaporate. The residue was suspended in chloroform and the mixture was filtered. The filtrate was concentrated and the residue chromatographed on preparative high pressure liquid chromatograph using a silica gel column and eluting with 75% ethyl acetate/25% dimethylformamide. The yield of product was 0.1 g (7%). The chemical ionization mass spectrophotometer gave a peak at 236 corresponding to a molecular weight of 235. The 1H NMR spectrum of the subject compound was obtained in CDCl3 containing 1% tetramethylsilane (TMS) and is consistent with the proposed structure and dimethylformamide (DMF) and mineral oil as minor impurities. The chemical shifts, multiplicities, and assignments are given below:

reactant | 2-(dimethylamino ethyl]-2,3-dihydro-4-phenylmethylpyrido[3,2-f][1,4]oxazepin-5(4H)-one oxalate | C(C(=O)O)(=O)O.CN(C)CCC1OC2=C(C(N(C1)CC1=CC=CC=C1)=O)C=CC=N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | about 50 ml | O | H2O
product | 2-[2-(Dimethylamino)ethyl]-2,3-dihydropyrido[3,2-f][1,4]oxazepin-5(4H)-one | CN(CCC1OC2=C(C(NC1)=O)C=CC=N2)C | C12H17N3O2
